US04329347
6-(4-Benzylmercapto-butoxy)-3,4-dihydro-carbostyril
A solution of 2.5 gm of 6-(4-mercapto-butoxy)-3,4-dihydro-carbostyril in 25 ml of dimethysulfoxide was mixed whilst stirring with 1.4 gm of potassium carbonate and subsequently with 1.3 ml of benzyl chloride. After stirring for 15 hours at room temperature, the reaction mixture was diluted with 200 ml of water, and the precipitated oily substance was separated and recrystallized from ethyl acetate.

reactant | 6-(4-mercapto-butoxy)-3,4-dihydro-carbostyril | 2.5 gm | SCCCCOC=1C=C2CCC(NC2=CC1)=O | C13H17NO2S
reactant | potassium carbonate | 1.4 gm | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl chloride | 1.3 ml | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | dimethysulfoxide | 25 ml | CS(=O)C | C2H6OS
solvent | water | 200 ml | O | H2O
product | 6-(4-Benzylmercapto-butoxy)-3,4-dihydro-carbostyril | C(C1=CC=CC=C1)SCCCCOC=1C=C2CCC(NC2=CC1)=O | C20H23NO2S
